US05612356
7-Hydroxy-6-isopropyl-1-tetralone
20 ml of ethanethiol was added to 100 ml of a suspension of 28 g of aluminium chloride in dichloromethane cooled with ice. The obtained mixture was stirred for 5 minutes, followed by the slowly, dropwise addition thereto of 50 ml of a solution of 15.3 g of 6-isopropyl-7-methoxy-1-tetralone in dichloromethane. After the completion of the dropwise addition, the obtained mixture was stirred for 3 hours at room temperature and poured onto ice-water. The obtained mixture was extracted with ethyl acetate. The organic phase was washed with water, a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of common salt successively, dried over anhydrous magnesium sulfate, and distilled to remove the solvent. The obtained solid residue was washed with n-hexane to give 8.5 g of the title compound as a white solid.

reactant | ethanethiol | 20 ml | C(C)S | C2H6S
reactant | aluminium chloride | 28 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 6-isopropyl-7-methoxy-1-tetralone | 15.3 g | C(C)(C)C=1C=C2CCCC(C2=CC1OC)=O | C14H18O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-Hydroxy-6-isopropyl-1-tetralone | 8.5 g | OC1=C(C=C2CCCC(C2=C1)=O)C(C)C | C13H16O2
